US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide (38 mg, 0.10 mmol) was dissolved in 1 mL of N,N-dimethylformamide (DMF) containing 0.2 mL of a 2M aqueous solution of potassium carbonate and 12 mg of Fibre-Cat 1007. The reaction mixture was then heated to 80° C. for 16 hours. The resulting material was cooled to room temperature, filtered, and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield the pure product. ESI-MS m/z calc. 372.2. Found 373.2 (M+1)+. Retention time 1.80 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide | 0.10 mmol, 38 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)Br)C | C17H15BrN2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=CC=C2)C | C23H20N2O3
